US08466186B2
(g) Tert-butyl N-{4-chloro-3-[5-chloro-1-methyl-6-(3-(trifluoromethyl)piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzyl}-carbamate
Tert-butyl 4-chloro-3-isothiocyanatobenzylcarbamate (938 mg, 3.1 mmol) was added to 5-chloro-2-methylamino-4-(3-(trifluoromethyl)piperidin-1-yl)aniline (920 mg, 3.0 mmol) in MeCN (20 mL). The mixture was stirred for 4 h at rt, then EDC (582 μL, 3.3 mmol) was added and it was stirred overnight. The reaction mixture was purified by chromatography to give the sub-title compound.

reactant | Tert-butyl 4-chloro-3-isothiocyanatobenzylcarbamate | 3.1 mmol, 938 mg | ClC1=C(C=C(CNC(OC(C)(C)C)=O)C=C1)N=C=S | C13H15ClN2O2S
reactant | 5-chloro-2-methylamino-4-(3-(trifluoromethyl)piperidin-1-yl)aniline | 3.0 mmol, 920 mg | ClC=1C(=CC(=C(N)C1)NC)N1CC(CCC1)C(F)(F)F | C13H17ClF3N3
reactant | EDC | 3.3 mmol, 582 μL
solvent | MeCN | 20 mL | CC#N | C2H3N
product | Tert-butyl N-{4-chloro-3-[5-chloro-1-methyl-6-(3-(trifluoromethyl)piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzyl}-carbamate | ClC1=C(C=C(CNC(OC(C)(C)C)=O)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CC(CCC2)C(F)(F)F | C26H30Cl2F3N5O2
